US07012075B2
To (2S)-2-(4-bromoanilino)-N-(cyanomethyl)-4-methylpentanamide (555 mg, 1.71 mmol), and 4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenylboronic acid (520 mg, 1.71 mmol) in DMF (20 mL) under dry nitrogen was added aqueous sodium carbonate (2 M, 2.55 mL, 5.13 mmol) followed by the catalyst PdCl2(dppf) (42 mg, 0.051 mmol). The reaction was heated to 105° C. for 0.75 hours and more PdCl2(dppf) (42 mg, 0.051 mmol) was added and the reaction mixture was heated for another 4–5 hours. Water was added and the product extracted with ether (2×), dried over Na2SO4, concentrated in vacuo, and purified by flash chromatography over silica gel (EtOAc/Hex, 4/6 then 1/1) to afford tert-butyl 4-{4′-[((1S)-1-{[(cyanomethyl)amino]carbonyl}-3-methylbutyl)amino][1,1′-biphenyl]-4-yl}-1-piperazinecarboxylate.

reactant | (2S)-2-(4-bromoanilino)-N-(cyanomethyl)-4-methylpentanamide | 1.71 mmol, 555 mg | BrC1=CC=C(N[C@H](C(=O)NCC#N)CC(C)C)C=C1 | C14H18BrN3O
reactant | 4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenylboronic acid | 1.71 mmol, 520 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)B(O)O | C15H23BN2O4
reactant | sodium carbonate | 5.13 mmol, 2 M, 2.55 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.051 mmol, 42 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | PdCl2(dppf) | 0.051 mmol, 42 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 4-{4′-[((1S)-1-{[(cyanomethyl)amino]carbonyl}-3-methylbutyl)amino][1,1′-biphenyl]-4-yl}-1-piperazinecarboxylate | C(#N)CNC(=O)[C@H](CC(C)C)NC1=CC=C(C=C1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C29H39N5O3
